US07968570B2
2-Prop-2-ynyl-2,3-dihydro-isoindol-1-one
To 2,3-dihydro-isoindol-1-one (250.0 mg, 1.85 mmol) in acetonitrile (9 mL) was added propargyl bromide (308.6 uL, 2.77 mmol) and cesium carbonate (2.4 g, 7.39 mmol) and the mixture was allowed to stir at 80° C. for two hours. An aqueous workup was done to provide the title compound (303.3 mg, 96%).

reactant | 2,3-dihydro-isoindol-1-one | 1.85 mmol, 250.0 mg | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | propargyl bromide | 2.77 mmol, 308.6 uL | C(C#C)Br | C3H3Br
reactant | cesium carbonate | 7.39 mmol, 2.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | 2-Prop-2-ynyl-2,3-dihydro-isoindol-1-one | 303.3 mg, 96% | C(C#C)N1C(C2=CC=CC=C2C1)=O | C11H9NO
